US04979978
(2-Hydroxy-4-methoxyphenyl)(2-hydroxyphenyl)methanone (16.1 g, 65.9 mmol), 36.5 g (258 mmol) of potassium carbonate, and 3.00 g (18 mmol) of potassium iodide were suspended in 250 ml of 2-propanol and heated with stirring. Dichloroacetic acid (6.00 ml, 72.6 mmol) was added slowly with a syringe and the mixture heated at reflux with stirring. After 48 hours another 5.00 ml of dichloroacetic acid was added and the reaction continued for another 48 hours. The mixture was then allowed to cool and was concentrated by evaporation under reduced pressure to obtain a solid residue. The residue was dissolved in 500 ml of water and the solution extracted with 200 ml of ether. The aqueous layer was then acidified with concentrated aqueous hydrochloric acid and then extracted twice with 500 ml portions of ether and once with 300 ml of ethyl acetate. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure to obtain 3-methoxy- 12H-dibenzo[d,g][1,3]dioxocin-12-one-6-carboxylic acid as a semi-solid residue. The proton nmr spectrum was consistent with the assigned structure.

reactant | (2-Hydroxy-4-methoxyphenyl)(2-hydroxyphenyl)methanone | 65.9 mmol, 16.1 g | OC1=C(C=CC(=C1)OC)C(=O)C1=C(C=CC=C1)O | C14H12O4
reactant | potassium carbonate | 258 mmol, 36.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 18 mmol, 3.00 g | [I-].[K+]
reactant | Dichloroacetic acid | 72.6 mmol, 6.00 ml | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | dichloroacetic acid | 5.00 ml | ClC(C(=O)O)Cl | C2H2Cl2O2
solvent | 2-propanol | 250 ml | CC(C)O | C3H8O
solvent | water | 500 ml | O | H2O
product | 3-methoxy- 12H-dibenzo[d,g][1,3]dioxocin-12-one-6-carboxylic acid | COC=1C=CC2=C(OC(OC3=C(C2=O)C=CC=C3)C(=O)O)C1 | C16H12O6
